US05308840
Synthesis of 4-hydroxy-3-nitrobenzaldehyde ethylene acetal (1)
A solution of 4-hydroxy-3-nitrobenzaldehyde (known compound, 20.6 g, 124 mmol), benzene (150 ml), ethylene glycol (10.3 ml, 185 mmol) and p-toluenesulfonic acid hydrate (catalytic amount) was refluxed overnight removing the resulting water by azeotropic distillation with benzene.

reactant | 4-hydroxy-3-nitrobenzaldehyde | 124 mmol, 20.6 g | OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H5NO4
reactant | ethylene glycol | 185 mmol, 10.3 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 4-hydroxy-3-nitrobenzaldehyde ethylene acetal | C1COC(C2=CC(=C(C=C2)O)[N+](=O)[O-])O1 | C9H9NO5
